US07244736B2
Pyrazine-2-carboxamidine hydrochloride
To a solution of sodium methoxide (NaOCH3) (51.4 g, 0.952 mol) in methanol (3800 ml) there is added cyanopyrazine (1.00 KG, 9.53 mol) slowly at room temperature. The mixture is heated to 30° C. and stirred for 6 h. The mixture is cooled to 25° C. followed by the addition of ammonium chloride (NH4Cl) (572 g, 10.5 mol). The reaction mixture is stirred for 22 h and methyl t-butyl ether (4000 mL) is added and the mixture is stirred for 15 min forming a solid. The solid is filtered and washed with methyl t-butyl ether (2×1000 mL) then dried at 40° C./0–10 mmHg for 17 h to give white solid product (1435 g) in 95% yield with 95% HPLC purity. 1H NMR (DMSO-D6): δ 9.7 (bs, 3H), 9.49 (d, 1H, J=1.5 Hz), 9.04 (m, 1H), 8.93 (t, 1H, J=1.5 Hz)

reactant | sodium methoxide | 0.952 mol, 51.4 g | C[O-].[Na+]
reactant | cyanopyrazine | 9.53 mol | C(#N)C1=NC=CN=C1 | C5H3N3
reactant | ammonium chloride | 10.5 mol, 572 g | [Cl-].[NH4+]
reactant | methyl t-butyl ether | 4000 mL | C(C)(C)(C)OC | C5H12O
solvent | methanol | 3800 ml | CO | CH4O
product | Pyrazine-2-carboxamidine hydrochloride | 1435 g, 95% yield | Cl.N1=C(C=NC=C1)C(=N)N | InChI=1S/C5H6N4.ClH/c6-5(7)4-3-8-1-2-9-4;/h1-3H,(H3,6,7);1H
